US08685989B2
Production of N-(1-benzylpiperidine-4-yl)-2-(6-chloropyridazine-3-yloxy)-N-cyclopropylacetamide (Compound 138)
The title compound was synthesized from ethyl 2-(6-chloropyridazine-3-yloxy)acetate and 1-benzyl N-cyclopropyl-piperidine-4-amine in the same manner as in Example 104.

reactant | ethyl 2-(6-chloropyridazine-3-yloxy)acetate | ClC1=CC=C(N=N1)OCC(=O)OCC | C8H9ClN2O3
reactant | 1-benzyl N-cyclopropyl-piperidine-4-amine | C(C1=CC=CC=C1)N1CCC(CC1)NC1CC1 | C15H22N2
product | N-(1-benzylpiperidine-4-yl)-2-(6-chloropyridazine-3-yloxy)-N-cyclopropylacetamide | C(C1=CC=CC=C1)N1CCC(CC1)N(C(COC=1N=NC(=CC1)Cl)=O)C1CC1 | C21H25ClN4O2
